US09340556B2
To a suspension of 1-ethyl-5-nitro-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid (4.25 g, 13.83 mmol) in Acetic Acid (100 mL) and hydrochloric acid (30 mL) in parr shaker bottle was added Pd/C (0.6 g, 5.64 mmol) and the mixture was hydrogenated at 50 psi on a parr shaker for 5 h. The mixture was filtered. The filtrate was allowed to drop into 500 ml of water and the precipitate was collected by filtration, dried to afford 5-amino-1-ethyl-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid (3.6 g, 12.99 mmol, 94% yield). LCMS: (M+H)+: 278.2

reactant | 1-ethyl-5-nitro-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid | 13.83 mmol, 4.25 g | C(C)N1N=C(C(C2=C(C3=C(C=C12)OCO3)[N+](=O)[O-])=O)C(=O)O | C12H9N3O7
solvent | Acetic Acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 30 mL | Cl | ClH
catalyst | Pd/C | 5.64 mmol, 0.6 g | [Pd] | Pd
product | 5-amino-1-ethyl-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid | 12.99 mmol, 3.6 g, 94% yield | NC1=C2C(C(=NN(C2=CC2=C1OCO2)CC)C(=O)O)=O | C12H11N3O5
